US07176242B2
To a 7 ml screw cap vial was added (20.9 mg, 0.0949 mmoles) 2-[methyl(methylsulfonyl)amino]-1,3-oxazole-4-carboxylic acid, (36.7 mg, 0.1097 mmoles, 1.15 eq.) (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol and (54.6 mg, 0.1436 mmoles, 1.5 eq.) HATU, followed by (1.25 ml) N,N-dimethylformamide. The reaction was placed in an orbital shaker and was left at ambient temperature for 2 hours. The reaction was quenched with (2 ml) 1N HCl. The clear solution was extracted three times with ethyl acetate and the combined organic layers were washed with saturated sodium carbonate solution and then brine. The solution was then dried with magnesium sulfate and evaporated to a clear oil which was purified by preparative HPLC, resulting N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-[methyl(methylsulfonyl)amino]-1,3-oxazole-4-carboxamide (15.7 mg).

reactant | 2-[methyl(methylsulfonyl)amino]-1,3-oxazole-4-carboxylic acid | 0.0949 mmoles, 20.9 mg, 1.15 eq. | CN(C=1OC=C(N1)C(=O)O)S(=O)(=O)C | C6H8N2O5S
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | HATU | 0.1436 mmoles, 54.6 mg, 1.5 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 1.25 ml | CN(C=O)C | C3H7NO
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-[methyl(methylsulfonyl)amino]-1,3-oxazole-4-carboxamide | 15.7 mg | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C=2N=C(OC2)N(S(=O)(=O)C)C)C=C(C1)F | C25H30F2N4O5S
